US07994185B2
Step A: 1,1-dimethylethyl 4-[5-(2-amino-4-pyrimidinyl)-4-(3-{[(2,6-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-1,3-thiazol-2-yl]-1-piperidinecarboxylate
A suspension of 1,1-dimethylethyl 4-[5-(2-chloro-4-pyrimidinyl)-4-(3-{[(2,6-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-1,3-thiazol-2-yl]-1-piperidinecarboxylate (110 mg, 0.165 mmol) in ammonium hydroxide solution (28%, 2 mL, 51.4 mmol) sealed in a 5-mL microwave tube was heated at 90° C. for 3 h under the microwave conditions. The mixture was concentrated and dried under high vacuum to give 98 mg of the title compound. MS (ESI): 647.3 [M+1]+.

reactant | 1,1-dimethylethyl 4-[5-(2-chloro-4-pyrimidinyl)-4-(3-{[(2,6-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-1,3-thiazol-2-yl]-1-piperidinecarboxylate | 0.165 mmol, 110 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C29H27ClF3N5O4S2
reactant | ammonium hydroxide | 51.4 mmol, 2 mL | [OH-].[NH4+]
product | 1,1-dimethylethyl 4-[5-(2-amino-4-pyrimidinyl)-4-(3-{[(2,6-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-1,3-thiazol-2-yl]-1-piperidinecarboxylate | 98 mg | NC1=NC=CC(=N1)C1=C(N=C(S1)C1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C29H29F3N6O4S2
